US07476399B2
(R)-methyl 4-methyl-2-(3-methylbenzofuran-2-carboxamido)pentanoate
Prepared in a similar manner to example 4 using 3-methylbenzofuran-2-carboxylic acid and D-leucine methyl ester. MS (M+H, 304).

reactant | 3-methylbenzofuran-2-carboxylic acid | CC1=C(OC2=C1C=CC=C2)C(=O)O | C10H8O3
reactant | D-leucine methyl ester | COC([C@H](N)CC(C)C)=O | C7H15NO2
product | (R)-methyl 4-methyl-2-(3-methylbenzofuran-2-carboxamido)pentanoate | CC(C[C@H](C(=O)OC)NC(=O)C=1OC2=C(C1C)C=CC=C2)C | C17H21NO4
